US08067448B2
2-chloro-4-((1R,2R)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
To a 250 mL, round-bottomed flask equipped with a magnetic stir bar and septum was added N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide (0.6871 g, 2.4 mmol) followed by addition of anhydrous THF (200 mL) under an atmosphere of nitrogen. To this was then added tosyl chloride (318 mg, 1.7 mmol) followed by addition of polystyrene bound (2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine (PS-BEMP) (2.2 mmol/g loading, 2.29 g, 5.0 mmol). This mixture was allowed to stir at room temperature for a period of 16 h. The solids were then filtered off and washed with additional THF (100 mL). The filtrate was then concentrated under reduced pressure to reveal a yellow solid. This was purified via silica gel chromatography eluted with 50% EtOAc/hexanes to provide product as a white solid (138 mg, 21%). 1H NMR (500 MHz, acetone-d6, δ in ppm) 8.19 (AA′XX′, J=8.4 Hz, 2H), 7.98 (AA′XX′, J=8.5 Hz, 2H), 7.48 (d, J=8.6 Hz, 1H), 6.89 (d, J=8.7 Hz, 1H), 5.89 (d, J=8.8 Hz, 1H), 5.11 (dd, J=5.6, 8.8 Hz, 1H), 4.71 (d, J=5.9 Hz, 1H), 4.55 (m, 1H), 2.36 (s, 3H), 1.43 (d, J=6.3 Hz, 3H).

reactant | N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide | 2.4 mmol, 0.6871 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)[C@@H](C)O)C | C20H18ClN5O3
reactant | tosyl chloride | 1.7 mmol, 318 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine | 5.0 mmol, 2.29 g | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | BEMP | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-((1R,2R)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | 138 mg, 21% | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@@H](C)O)C=1OC(=NN1)C1=CC=C(C=C1)C#N | C20H16ClN5O2
